US06982348B2
4) ethyl (2RS,3RS)-2-[4-(1,1-difluoroethyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionate
While stirring zinc chloride (1.91 g, 14.0 mmol) in diethyl ether (50 ml), sodium borohydride (1.06 g, 28.1 mmol) was added at room temperature and the mixture was stirred as it was for 2 hrs. The insoluble material of the mixture was removed by filtration and washed with diethyl ether to give a solution of zinc borohydride in diethyl ether. To the obtained solution was added a solution of ethyl 2-[4-(1,1-difluoroethyl)benzyl]-3-(4-fluorophenyl)-3-oxopropionate (2.556 g, 7.015 mmol) in diethyl ether (30 ml) at room temperature and the mixture was stirred as it was for 2 hrs. To the reaction solution was added dilute hydrochloric acid by small portions to decompose excess zinc borohydride and the mixture was extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−3/1) to give the objective substance.

reactant | ethyl 2-[4-(1,1-difluoroethyl)benzyl]-3-(4-fluorophenyl)-3-oxopropionate | 7.015 mmol, 2.556 g | FC(C)(F)C1=CC=C(CC(C(=O)OCC)C(=O)C2=CC=C(C=C2)F)C=C1 | C20H19F3O3
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
catalyst | zinc borohydride | [BH4-].[Zn+2].[BH4-]
product | ethyl (2RS,3RS)-2-[4-(1,1-difluoroethyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionate | FC(C)(F)C1=CC=C(CC(C(=O)OCC)C(O)C2=CC=C(C=C2)F)C=C1 | C20H21F3O3
